US04064258
In this preparation a mixture containing 0.1 mole of 4-methylbicyclo[2.2.2]oct-2-ene-1-yl carboxylic acid and 1 g. of 5% palladium on carbon catalyst in 300 ml. of ethanol is stirred under hydrogen, at room temperature, until no more hydrogen is absorbed (about 2.4 liters are absorbed). The catalyst is then filtered off and the solvent removed from the filtrate by evaporation, under vacuum, affording 4-methylbicyclo[2.2.2]oct-1-yl carboxylic acid.

reactant | 4-methylbicyclo[2.2.2]oct-2-ene-1-yl carboxylic acid | 0.1 mole | CC12C=CC(CC1)(CC2)C(=O)O | C10H14O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-methylbicyclo[2.2.2]oct-1-yl carboxylic acid | CC12CCC(CC1)(CC2)C(=O)O | C10H16O2
